* Z:\mnt\design.r\spice\examples\1010.asc
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 SINE(0 1 1K)
XU1 N001 +V -V NC_01 N002 LT1010
.tran 3m
.lib LTC.lib
.backanno
.end
